US06140344
Diisopropylethyl amine (17.4 mL, 134 mmol) was added a solution of (DL)-valinol (9.85 g, 95 mmol) in methylene chloride (100 ml). The reaction mixture was cooled to 0° C., treated with a solution of p-toluoyl chloride (12.8 mL, 91 mmol) in methylene chloride (50 mL) and then allowed to warm to room temperature. After stirring for 3 h, excess aqueous sodium hydroxide solution was added and the reaction was transferred to a separatory funnel. The organic layer was separated and the aqueous layer washed with one portion of methylene chloride. The combined organic layers were washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. Chromatography eluting with 25% ethyl acetate in hexanes, followed by 50% ethyl acetate in hexanes gave N-p-toluoyl valinol (18.04 g).

reactant | Diisopropylethyl amine | 134 mmol, 17.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (DL)-valinol | 95 mmol, 9.85 g | NC(C(C)C)CO | C5H13NO
reactant | p-toluoyl chloride | 91 mmol, 12.8 mL | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-p-toluoyl valinol | 18.04 g | C1(=CC=C(C=C1)C(=O)N[C@@H](C(C)C)CO)C | C13H19NO2
